US06559166B1
a) 4-(4-Bromophenylsulphonyl)-1-(2-fluoro-2-phenylethyl)piperidine
4-(4-Bromophenylsulphonyl)piperidine (0.7 g, 2.3 mmol) was reacted with α-fluorophenylacetic acid (0.53 g, 3.45 mmol) in a similar manner as described for Example 13, Steps a and b, to give the required product as a colourless solid, 0.56 g (58%), m.p. 126-127° C. (EtOAc-pet. ether 60-80°). δH (400 MHz, CDCl3) 1.70-1.77 (2H, m), 2.00-2.03 (2H, m), 2.13-2.20 (2H, m), 2.57-2.69 (1H, m), 2.83-2.93 (2H, s), 3.04-3.18 (2H, m), 5.51-5.65 (1H, m), 7.28-7.39 (5H, m), 7.70-7.75 (4H, m).

reactant | 4-(4-Bromophenylsulphonyl)piperidine | 2.3 mmol, 0.7 g | BrC1=CC=C(C=C1)S(=O)(=O)C1CCNCC1 | C11H14BrNO2S
reactant | α-fluorophenylacetic acid | 3.45 mmol, 0.53 g | FC(C(=O)O)C1=CC=CC=C1 | C8H7FO2
product | 4-(4-Bromophenylsulphonyl)-1-(2-fluoro-2-phenylethyl)piperidine | BrC1=CC=C(C=C1)S(=O)(=O)C1CCN(CC1)CC(C1=CC=CC=C1)F | C19H21BrFNO2S
